reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([N+:6]#[C-:5])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],60.0947041717521
[C:1]([C@@:2]([O+:3]=[C-:4][O:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],31.5375522161863
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([N+:6]#[C-:5])[H:11],114.280585352536
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4]([H:12])[o:6][c:5]1[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],97.08273608625021
[C:1]([C:2]1=[C:5]([H:12])[C:4]([H:10])([H:11])[C:3]1=[O:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],127.78153271069901
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C:4]([H:12])([H:13])/[C:5]1=[C:6](/[O:3][H:11])[H:14])([H:7])([H:8])[H:9],76.1843541316545
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]1=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],84.6336463912284
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([O:7]/[C:6](=[N:5]/[H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],50.71407345700381
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:6]/[C:5](=[C:2](/[C:3]#[N:4])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],89.39584864722971
[C:1]([C:2]([O:4][C-:3]=[O+:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],49.810203829420786
[C:1]([O:2][C:3]([C@:4]([N:5]=[O:6])([C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],59.37441410751001
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C:2]([H:9])([H:10])[N:3]([H:11])[C@@:4]1([O:5][H:8])[H:12],97.2523373905531
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[O:3]([C:4]([C:5]#[N:6])([H:12])[H:13])[H:9],65.2691246972554
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C@@:6]1([H:13])[C:5]([H:11])([H:12])[O:7]1)([H:9])[H:10])[H:8],97.6831932509894
[C:1]([O:2][H:9])([H:6])([H:7])[H:8].[C:3](=[C:4]([H:10])[H:11])=[N:5][H:12]>>[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8],44.63929686191911
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N+:5]([H:10])([H:12])[C-:6]1[H:11])[H:7],67.1401681211939
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[C:3](=[C:4]([O:5][H:8])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11],61.48663626168899
[C:2]([H:8])[H:9].[O:1]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],34.75448231739209
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],68.4979311310384
[C:1](=[C:2]=[C:3]([C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])[H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],80.32157230858027
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13],88.3291263310622
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N+:5]([C-:6]([H:13])[H:14])([H:12])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],93.9168765680432
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16],93.86199455201859
